US04200641
A mixture of 40 parts of 3-[(2-amino-5-chlorophenyl)amino]-1-propanol, 87 parts of sodium α-hydroxycyclohexanemethanesulfonate and 200 parts of ethanol is stirred and refluxed for 10 minutes. The reaction mixture is diluted with water and the solvent is evaporated. The residue is extracted a few times with trichloromethane. The combined extracts are dried, filtered and evaporated. The oily residue is triturated in 2,2'-oxybispropane: a sticky tar precipitates. The 2,2'-oxybispropane is decanted and upon stirring at room temperature, the product is allowed to precipitate. It is filtered off and dried, yielding 6-chloro-2-cyclohexyl-1H-benzimidazole-1-propanol; mp. 120.1° C.

reactant | 3-[(2-amino-5-chlorophenyl)amino]-1-propanol | NC1=C(C=C(C=C1)Cl)NCCCO | C9H13ClN2O
reactant | sodium α-hydroxycyclohexanemethanesulfonate | OC(S(=O)(=O)[O-])C1CCCCC1.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-chloro-2-cyclohexyl-1H-benzimidazole-1-propanol | ClC=1C=CC2=C(N(C(=N2)C2CCCCC2)CCCO)C1 | C16H21ClN2O
